US06458780B1
DMF (15.48 ml) was added to 80 ml of dichloromethane. A solution of 18.32 ml of phosphorus oxychloride in 80 ml of dichloromethane was dropwise added thereto under ice cooling. A reaction was allowed to proceed at room temperature for 30 min. A solution of imidazo[5,1-b]thiazole in 40 ml of dichloromethane was added dropwise thereto. The mixture was heated under reflux for 2.5 hr. The reaction solution was poured into ice. The reaction solution was adjusted to pH 9.8 by the addition of a 5 N aqueous sodium hydroxide solution, followed by extraction five times with 200 ml of dichloromethane. The extract was dried over anhydrous magnesium sulfate. The solvent was removed by distillation under the reduced pressure. The residue was purified by column chromatography on silica gel (eluting with dichloromethane:ethyl acetate=5:1, ethyl acetate alone, and then dichloromethane:methanol=10:1) to give 2.37 g of 7-formylimidazo[5,1-b]thiazole.

reactant | DMF | 15.48 ml | CN(C)C=O | C3H7NO
reactant | phosphorus oxychloride | 18.32 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | imidazo[5,1-b]thiazole | S1C=2N(C=C1)C=NC2 | C5H4N2S
reactant | sodium hydroxide | 5 N | [OH-].[Na+]
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | 7-formylimidazo[5,1-b]thiazole | 2.37 g | C(=O)C=1N=CN2C1SC=C2 | C6H4N2OS
